US05385925
c) 2-n-Propyl-5-(1-methylbenzimidazol-2-yl)benzimidazole
A solution of 6.7 g (25 mMol) of 2-n-propyl-benzimidazole-5-carboxylic acid-hemisulphate and 4.9 g (25 mMol) of 2-methylaminoaniline-dihydrochloride in 200 g of polyphosphoric acid is stirred for 5 hours at 150° C., then poured onto 600 ml of water and made alkaline with concentrated ammonia whilst cooling with ice. The resulting solution is extracted three times with 200 ml of ethyl acetate, the crude product thus obtained is purified by column chromatography (300 g of silica gel; eluant: methylene chloride/methanol=15:1).

reactant | 2-n-propyl-benzimidazole-5-carboxylic acid-hemisulphate | 25 mMol, 6.7 g | S(=O)(=O)(O)O.C(CC)C=1NC2=C(N1)C=CC(=C2)C(=O)O.C(CC)C=2NC1=C(N2)C=CC(=C1)C(=O)O
reactant | 2-methylaminoaniline-dihydrochloride | 25 mMol, 4.9 g | Cl.Cl.CNC1=C(N)C=CC=C1
reactant | ammonia | N | H3N
solvent | water | 600 ml | O | H2O
product | 2-n-Propyl-5-(1-methylbenzimidazol-2-yl)benzimidazole | C(CC)C=1NC2=C(N1)C=CC(=C2)C2=NC1=C(N2C)C=CC=C1 | C18H18N4
